US08557834B2
N-{[6-Hydroxy-1-methyl-2,4-dioxo-3-(phenylmethyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycine
A mixture of ethyl N-{[6-hydroxy-2,4-dioxo-3-(phenylmethyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycinate (295 mg, 0.85 mmoles), methyl iodide (62 uL, 1.0 mmoles) and sodium carbonate (320 mg, 3.0 mmoles) in dimethylformamide (5.0 mL) was stirred under argon at 100° C. for 2.5 hours. The mixture was cooled, poured into 1 molar hydrochloric acid and extracted with ethyl acetate (×2). The ester was hydrolysed by stirring in a mixture of ethanol (5 mL) and 1 molar sodium hydroxide solution (4 mL) for 4 hours. The mixture was acidified and extracted with ethyl acetate. Purification by preparative HPLC (acetonitrile-water—0.1% TFA, 20-100%) and crystallization from ether-hexane gave the title compound (80 mg, 28%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.11 (br. s., 1 H), 10.09 (br. s., 1 H), 7.28-7.36 (m, 4 H), 7.19-7.29 (m, 1 H), 5.01 (s, 2 H), 4.14 (d, J=5.81 Hz, 2 H), 3.21 (s, 3 H).

reactant | ethyl N-{[6-hydroxy-2,4-dioxo-3-(phenylmethyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycinate | 0.85 mmoles, 295 mg | OC1=C(C(N(C(N1)=O)CC1=CC=CC=C1)=O)C(=O)NCC(=O)OCC | C16H17N3O6
reactant | methyl iodide | 1.0 mmoles, 62 uL | CI | CH3I
reactant | sodium carbonate | 3.0 mmoles, 320 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1 molar | Cl | ClH
solvent | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | N-{[6-Hydroxy-1-methyl-2,4-dioxo-3-(phenylmethyl)-1,2,3,4-tetrahydro-5-pyrimidinyl]carbonyl}glycine | 80 mg, 28% | OC1=C(C(N(C(N1C)=O)CC1=CC=CC=C1)=O)C(=O)NCC(=O)O | C15H15N3O6
